US07067540B2
Methyl (2E)-4-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]but-2-enoate
To a stirred suspension of NaH (277 mg, 11 mmol) in anhydrous THF (30 ml), which was cooled to 0° C., was slowly added 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one (3.3 g, 10 mmol). The resulting slurry was stirred for 15 min, after which methyl 4-bromocrotonate (1.4 ml, 12 mmol) was added to the reaction. The ice bath was removed and the reaction was heated to reflux for 16 h. The reaction was quenched by the addition of 1N NH4Cl. The layers were separated and the aqueous layer was extracted with CH2Cl2 (5×). The organics were combined, dried, and concentrated in vacuo. The crude yellowish material was then triturated with Et2O to give, after filtration and drying, 1.8 g (43%) of a white solid. 1H-NMR (DMSOd6/300 MHz) δ 7.65 (app q, J=8.7 hz, 1H), 7.36 (app dt, J=12.0, 3.0 hz, 1H); 7.17 (dt, J=8.4, 1.8 Hz, 1H); 6.94 (dt, J=15.9, 4.5 Hz, 1H); 6.57 (s, 1H), 5.52 (d, J=15.9 Hz, 1H), 5.29 (s, 2H), 4.84 (m, 2H), 3.63 (s, 3H), 2.33 (s, 3H). ES-HRMS m/z 428.0301 (M+H calcd for C18H17BrF2NO4=428.0310).

reactant | NaH | 11 mmol, 277 mg | [H-].[Na+]
reactant | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | 10 mmol, 3.3 g | BrC=1C(NC(=CC1OCC1=C(C=C(C=C1)F)F)C)=O | C13H10BrF2NO2
reactant | methyl 4-bromocrotonate | 12 mmol, 1.4 ml | BrC/C=C/C(=O)OC | C5H7BrO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Methyl (2E)-4-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]but-2-enoate | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C/C=C/C(=O)OC)=O | C18H16BrF2NO4
